US04804668
2,2-Dimethoxy-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one (200 mg) was dissolved in 2N hydrochloric acid (2 ml), and the mixture was allowed to stand at room temperature for 30 minutes. Then, the solution was made alkaline by addition of 2N aqueous sodium hydroxide under ice-cooling, and the resulting precipitates were collected by filtration. The precipitates were washed with water, air-dried, and was recrystallized from benzene-petroleum ether to give methyl 4-methyl-5-(4-pyridinyl)-thiazole-2-carboxylate (158 mg, yield 90%) as colorless needles.

reactant | 2,2-Dimethoxy-5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 200 mg | COC1(SC(=C(NC1=O)C)C1=CC=NC=C1)OC | C12H14N2O3S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | hydrochloric acid | 2N, 2 ml | Cl | ClH
product | methyl 4-methyl-5-(4-pyridinyl)-thiazole-2-carboxylate | 158 mg, yield 90% | CC=1N=C(SC1C1=CC=NC=C1)C(=O)OC | C11H10N2O2S
